US09353096B2
In a 50 mL round-bottom flask, (2S)-3-(2-(3-chlorophenyl)morpholino)-1,1,1-trifluoropropan-2-ol (218 mg, 704 μmol) was combined with dichloromethane (12 ml) to give a colorless solution. TEA (71.2 mg, 98.1 μl, 704 μmol) was added. 1-Chloro-2-fluoro-4-isocyanatobenzene (157 mg, 915 μmol) was added. The reaction mixture was heated to 50° C. and stirred for 3 h and filtered. The solid was washed with dichloromethane (2×). The combined filtrate and washes were concentrated to a reduced volume and loaded onto a silica column. The crude material was purified by flash chromatography (silica gel, 40 g, 0% to 20% EtOAc in hexanes). The fractions that contained product were re-purified by flash chromatography (silica gel, 40 g, 10% to 20% (2:1 dichlormethane:EtOAc) in hexanes). The fractions from the back peak were pooled and concentrated and the resulting colorless film was dissolved in 2:1 hexanes ether and treated with 1M HCl in ether (1 mL). The resulting sticky solid was concentrated in vacuo to afford the salt, which was foamed to a white solid with ether (120 mg). The foam was triturated with ether/hexanes to afford ca. 90% pure (4-chloro-3-fluoro-phenyl)-carbamic acid (S)-1-[(S)-2-(3-chlorophenyl)-morpholin-4-ylmethyl]-2,2,2-trifluoro-ethyl ester hydrochloride. LCMS: M+1=481;

reactant | (2S)-3-(2-(3-chlorophenyl)morpholino)-1,1,1-trifluoropropan-2-ol | 704 μmol, 218 mg | ClC=1C=C(C=CC1)C1OCCN(C1)C[C@@H](C(F)(F)F)O | C13H15ClF3NO2
reactant | dichloromethane | 12 ml | ClCCl | CH2Cl2
reactant | 1-Chloro-2-fluoro-4-isocyanatobenzene | 915 μmol, 157 mg | ClC1=C(C=C(C=C1)N=C=O)F | C7H3ClFNO
solvent | ether | 120 mg | CCOCC | C4H10O
product | (4-chloro-3-fluoro-phenyl)-carbamic acid (S)-1-[(S)-2-(3-chlorophenyl)-morpholin-4-ylmethyl]-2,2,2-trifluoro-ethyl ester hydrochloride | ca. 90% | Cl.ClC=1C=C(C=CC1)[C@H]1CN(CCO1)C[C@@H](C(F)(F)F)OC(NC1=CC(=C(C=C1)Cl)F)=O | InChI=1S/C20H18Cl2F4N2O3.ClH/c21-13-3-1-2-12(8-13)17-10-28(6-7-30-17)11-18(20(24,25)26)31-19(29)27-14-4-5-15(22)16(23)9-14;/h1-5,8-9,17-18H,6-7,10-11H2,(H,27,29);1H/t17-,18+;/m1./s1
